US05091432
250 mg (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was added to a 10 ml round bottom flask equipped with a magnetic stirring bar, reflux condenser, and a CaCL2 drying tube. 452 mg (3.18 mmol) 1-(3-aminopropyl)-2-pyrrolidinone and 1 ml acetonitrile were added. The solution was heated to reflux for 17 hours at which time all of the acetonitrile was evaporated leaving a dark viscous oil. The oil was chromatographed on 15 g silica gel, eluting with 40% methanol/60% ethyl acetate. This procedure gave 185 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[3-(2-oxopyrrolidin-1-yl)propyl]propanamide (AIT-0034) as a pure white solid. Yield: 53%

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 250 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | 1-(3-aminopropyl)-2-pyrrolidinone | 3.18 mmol, 452 mg | NCCCN1C(CCC1)=O | C7H14N2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[3-(2-oxopyrrolidin-1-yl)propyl]propanamide | 185 mg, Yield: 53% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCCN1C(CCC1)=O | C15H20N6O3
